US04709093
N-[2-(2-methylamino-2-phenylethyl)phenyl]-2,2-dimethylpropanamide (62 g, 0.2 mol) was dissolved in 6N HCl (124 g) and stirred under a nitrogen atmosphere at 100° C. for 24 hours. The warm reaction mixture (about 35°-40° C.) was extracted with toluene (2×100 ml) to effect recovery of trimethylacetic acid. The aqueous phase was dried by azeotropic distillation with toluene (200 ml) using a Dean-Stark phase separator. The product was collected by filtration, slurried in hot 2-propanol (200 ml), refiltered and dried in vacuo (30 mm) at 45° C. for 12 hours to give N-methyl-2-amino-α-phenylphenethylamine dihydrochloride (58.7 g, 0.196 mol) in 98% yield. The product had a melting point of 251°-253° C.

reactant | N-[2-(2-methylamino-2-phenylethyl)phenyl]-2,2-dimethylpropanamide | 0.2 mol, 62 g | CNC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C20H26N2O
reactant | HCl | 6N, 124 g | Cl | ClH
product | N-methyl-2-amino-α-phenylphenethylamine dihydrochloride | 0.196 mol, 58.7 g, 98% yield | Cl.Cl.CNC(CC1=C(C=CC=C1)N)C1=CC=CC=C1 | InChI=1S/C15H18N2.2ClH/c1-17-15(12-7-3-2-4-8-12)11-13-9-5-6-10-14(13)16;;/h2-10,15,17H,11,16H2,1H3;2*1H
